US04898945
reacting bromine with 6-fluoro-2-methylquinoline to give 5-bromo-6-fluoro-2-methylquinoline, and

reactant | bromine | BrBr | Br2
reactant | 6-fluoro-2-methylquinoline | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
product | 5-bromo-6-fluoro-2-methylquinoline | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
